US04461906
150 mg of 1-(3-benzoyloxy-4-methoxybenzoyl)pyrrolin-2-one are dissolved in 100 ml of ethyl acetate and hydrogenated with hydrogen over 150 mg of 5% palladium/carbon at atmospheric pressure. The catalyst is filtered off and the filtrate is concentrated. The residue is stirred at room temperature in diethyl ether. After filtration, there is obtained 1-(3-hydroxy-4-methoxybenzoyl)-2-pyrrolidinone of melting point 122°-124° C.

reactant | 1-(3-benzoyloxy-4-methoxybenzoyl)pyrrolin-2-one | 150 mg | C(C1=CC=CC=C1)(=O)OC=1C=C(C(=O)N2C(CCC2)=O)C=CC1OC | C19H17NO5
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | hydrogen | [H][H] | H2
catalyst | palladium/carbon | 150 mg | [Pd] | Pd
product | 1-(3-hydroxy-4-methoxybenzoyl)-2-pyrrolidinone | OC=1C=C(C(=O)N2C(CCC2)=O)C=CC1OC | C12H13NO4
